US05510369
Preparation of N-(trans-4-Carboxycyclohexylmethyl)phthalimide
N-carboethoxyphthalimide (21.9 g, 0.10 mol), trans-4-(aminomethyl)cyclohexane carboxylic acid (15.7 g, 0.10 mol) and triethylamine (14 mL) were stirred in 100 mL THF and the mixture refluxed 18 h. The nearly clear solution was poured into 400 ml water containing 10 mL glac. HOAc with rapid stirring and the precipitated product collected by suction and dried in a vacuum oven at 80° C., mp 190°-192°.

reactant | N-carboethoxyphthalimide | 0.10 mol, 21.9 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | trans-4-(aminomethyl)cyclohexane carboxylic acid | 0.10 mol, 15.7 g | NC[C@@H]1CC[C@H](CC1)C(=O)O | C8H15NO2
reactant | triethylamine | 14 mL | C(C)N(CC)CC | C6H15N
reactant | water | 400 ml | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | HOAc | CC(=O)O | C2H4O2
product | N-(trans-4-Carboxycyclohexylmethyl)phthalimide | C(=O)(O)[C@@H]1CC[C@H](CC1)CN1C(C=2C(C1=O)=CC=CC2)=O | C16H17NO4
